US07915270B2
1-(5-(2,6-Dimethoxypyrimidin-4-yl)oxazol-2-yl)-7-phenylheptan-1-one
2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(2,6-dimethoxypyrimidin-4-yl)oxazole. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (200 mg, 0.302 mmol) and 6-chloro-2,4-dimethoxypyrimidine following General Procedure A. Flash chromatography (10% EtOAc/hexanes) yielded the title compound as a thick oil (138 mg, 90%): 1H NMR (CDCl3, 400 MHz) 6 7.73 (s, 1H), 7.28-7.24 (m, 2H), 7.18-7.15 (m, 3H), 6.67 (s, 1H), 4.85 (dd, 1H, J=7.3, 5.9 Hz), 4.03 (s, 3H), 4.00 (s, 3H), 2.59 (t, 2H, J=7.6 Hz), 1.96 (m, 2H), 1.62 (m, 2H), 1.36 (m, 4H), 0.90 (s, 9H), 0.10 (s, 3H), 0.00 (s, 3H); 13C NMR (CDCl3, 100 MHz) δ 172.3, 166.6, 165.4, 155.2, 149.0, 142.6, 128.3, 128.1, 128.0, 125.5, 95.8, 68.6, 54.8, 53.9, 36.2, 35.8, 31.3, 29.0, 25.6, 25.6, 24.9, 18.1, −5.1, −5.2.

reactant | 2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(2,6-dimethoxypyrimidin-4-yl)oxazole | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=NC(=NC(=C1)OC)OC | C28H41N3O4Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.302 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 6-chloro-2,4-dimethoxypyrimidine | ClC1=CC(=NC(=N1)OC)OC | C6H7ClN2O2
product | 1-(5-(2,6-Dimethoxypyrimidin-4-yl)oxazol-2-yl)-7-phenylheptan-1-one | 138 mg, 90% | COC1=NC(=CC(=N1)C1=CN=C(O1)C(CCCCCCC1=CC=CC=C1)=O)OC | C22H25N3O4
